Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
Lipitor / Synvisc
 
Attending: ___.
 
Chief Complaint:
L open ankle fx
 
Major Surgical or Invasive Procedure:
___ I&D, ex fix open ankle fx

___ I&D, ORIF ankle fx

 
History of Present Illness:
___ s/p slip and fall on ice w L open ankle fx
 
Past Medical History:
afib, HLD, HTN,h/o CVA (thalamic, residual R tingling), OA, 
chronic BLE venous insufficiency
 
Social History:
___
Family History:
n/c
 
Physical Exam:
LLE splint c/d/I
wiggling toes
wwp SILT to toes
 
Brief Hospital Course:
The patient was admitted  for the above mentioned procedure. For 
full details please refer to the operative note.  The patient's 
post-op course was uncomplicated. The patient was able to 
mobilize with ___ post-op. The patient's pain was controlled with 
IV followed by PO pain medications. The patient received 
perioperative antibiotic prophylaxis. The patient's diet was 
advanced as tolerated.  The patient received DVT prophylaxis 
with pneumoboots.  The patient was seen by Physical Therapy who 
deemed the patient ready for discharge.  At the time of 
discharge the patient was afebrile, tolerating a regular diet 
without nausea or vomiting, and voiding appropriately.  The 
patient's pain was well-controlled on oral pain medications.   
The dressing was noted to be clean, dry and intact. The patient 
will follow-up as scheduled with Dr. ___
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Metoprolol Tartrate 50 mg PO BID 
2. Pravastatin 50 mg PO QPM 
3. Levothyroxine Sodium 25 mcg PO DAILY 
4. Furosemide 20 mg PO DAILY 
warfarin

 
Discharge Medications:
1. Metoprolol Tartrate 50 mg PO BID 
2. Pravastatin 50 mg PO QPM 
3. Levothyroxine Sodium 25 mcg PO DAILY 
4. Furosemide 20 mg PO DAILY 
oxycodone
warfarin
docusate
zofran
 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
L open ankle fx

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.

Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
PAIN CONTROL:

- You may or may not have had a nerve block depending on the 
type of surgery. This will likely wear off later in the evening 
and it is normal to have increased pain when the nerve block 
wears off. Please take your prescribed pain medications as 
directed with food prior to the nerve block wearing off. 
 - Stay ahead of the pain!
 - Narcotic pain medications can cause constipation. Please take 
a stool softener while taking these and drink plenty of water.
 - Please plan ahead! If you are running out of your medication 
prior to your follow-up appointment please call during business 
hours with a ___ day notice. Prescription refills or changes 
cannot be addressed after normal business hours or on weekends.

NON-NARCOTIC PAIN CONTROL

- Multi-modal pain control is critical. If you are able to take 
Tylenol (acetaminophen) I would strongly encourage you to do so 
according to the instructions on the bottle. Do not take more 
than 4,000 mg of Tylenol in 24 hours.
 - NSAIDs (Advil, Motrin, Aleve, etc) are also excellent for 
pain control post-operatively. Do not take if you have had a 
bone fusion surgery, but for soft tissue procedures or most 
fracture surgeries these medications are acceptable unless you 
are unable to take for other medical reasons or unless we have 
specifically instructed you against it.
 - Elevation with the operative site above the level of the 
heart will decrease swelling and improve pain control
 - Ice or cold therapy may also be helpful. Do not keep ice or 
cold directly on the skin and do not use for more than ___ 
minutes to decrease risk of skin injury from the cold. Do NOT 
use ice when the block is still in effect as you will not know 
if you are injuring yourself. You may place the ice pack behind 
your knee if you have a bulky dressing on your foot. 
 - Every little bit helps. The faster you can come off the 
narcotic medication the better. Most of my patients do not need 
narcotics after the first post-operative visit!

 ACTIVITY:

- You will likely have swelling after surgery. Please keep the 
foot elevated on ___ pillows at all times possible. You can 
apply a dry, covered, ice-bag on top of your dressing or behind 
your knee for 20 minutes at a time as often as you like.
 - Unless instructed otherwise you should not put any weight 
down on your operated extremity until you come back for your 
first postoperative visit.

 CARE FOR YOUR DRESSING:

- Pls perform daily dressing changes to LLE w 
aquaphor/adaptic/xeroform (something non-stick), gauze, webril, 
lightly wrapped ACE
 - It is not unusual to have a little bloody staining through 
your dressing. However please call the office for any concerns.
 - Keep your dressing clean and dry. You will have to cover it 
when you bath or shower. If it gets wet please call the office 
immediately.

 PREVENTION OF BLOOD CLOTS:

- You have been instructed to take medication in order to help 
prevent blood clots after surgery. Please take your warfarin as 
you had been. 

 
Followup Instructions:
___